US05108486
Following procedures similar to those employed in Step B of Example 3, the reaction of 1.5 g (0.0056 mole) of 4-(2-ethyl-2-methyl-1,3-benzodioxol-5-yl)-2-methyl-3-thiosemicarbazide with 1.3 g (0.0062 mole) of trifluoroacetic anhydride in 75 ml of toluene yielded 1.3 g of 4-(2-ethyl-2-methyl-1,3-benzodioxol-5-yl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione as a gummy solid, Compound 162 of Table 1. The nmr and mass spectra were consistent with the proposed structure.

reactant | 4-(2-ethyl-2-methyl-1,3-benzodioxol-5-yl)-2-methyl-3-thiosemicarbazide | 0.0056 mole, 1.5 g | C(C)C1(OC2=C(O1)C=CC(=C2)NC(N(N)C)=S)C | C12H17N3O2S
reactant | trifluoroacetic anhydride | 0.0062 mole, 1.3 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2-ethyl-2-methyl-1,3-benzodioxol-5-yl)-3-trifluoromethyl-4,5-dihydro-1-methyl-1,2,4-triazol-5(1H)-thione | 1.3 g | C(C)C1(OC2=C(O1)C=CC(=C2)N2C(=NN(C2=S)C)C(F)(F)F)C | C14H14F3N3O2S
